US04297358
2 g of anhydrous potassium tert.-butylate are added to a solution of 2.5 g of N-(5-acetyl-8-methoxyquinolin-6-yl)oxamide acid methyl ester in 50 ml of anhydrous N,N-dimethylformamide and the whole is heated, with the exclusion of water, for 10 hours at 130°. The solution is then allowed to cool and is evaporated to dryness in vacuo. The residue is treated in succession with 2 N acetic acid and water. By chromatographic purification on silica gel and fractionated crystallisation from N,N-dimethylformamide, the 6-methyoxy-1-oxo-1,4-dihydro-4,7-phenanthroline-3-carboxylic acid methyl ester having a melting point of 280° (with decomposition) is obtained.

reactant | N-(5-acetyl-8-methoxyquinolin-6-yl)oxamide | 2.5 g | C(C)(=O)C1=C2C=CC=NC2=C(C=C1NC(=O)C(=O)N)OC | C14H13N3O4
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-methyoxy-1-oxo-1,4-dihydro-4,7-phenanthroline-3-carboxylic acid methyl ester | COC(=O)C1=CC(C2=C3C=CC=NC3=C(C=C2N1)OC)=O | C15H12N2O4
